US08957064B2
Step 3: tert-Butyl 3-[3-(6-methylpyridine-2-yl)-1H-1,2,4-triazole-5-yl]azetidine-1-carboxylate
16.4 g (49.3 mmol) tert-Butyl 3-({2-[amino(6-methylpyridine-2-yl)methylene]hydrazino}carbonyl)azetidine-1-carboxylate are heated under a nitrogen atmosphere to the melting point (220° C.) and kept there for 90 minutes. Ethanol is cautiously added to the reaction mixture during the cooling down phase (at around 135° C.). The reaction mixture is stirred over night at room temperature and the ethanol is evaporated. Due to an incomplete reaction the residue is heated once more to 220° C. for one hour and the work up is repeated yielding 12.91 g (74.58%) of the desired crude product (the byproduct is the cyclised compound which has lost the Boc group).

reactant | tert-Butyl 3-({2-[amino(6-methylpyridine-2-yl)methylene]hydrazino}carbonyl)azetidine-1-carboxylate | 49.3 mmol, 16.4 g | NC(=NNC(=O)C1CN(C1)C(=O)OC(C)(C)C)C1=NC(=CC=C1)C | C16H23N5O3
solvent | Ethanol | C(C)O | C2H6O
product | tert-Butyl 3-[3-(6-methylpyridine-2-yl)-1H-1,2,4-triazole-5-yl]azetidine-1-carboxylate | 12.91 g, 74.58% | CC1=CC=CC(=N1)C1=NNC(=N1)C1CN(C1)C(=O)OC(C)(C)C | C16H21N5O2
